US06492364B1
3-phenoxybenzaldehyde (1.0 g) and 1-acetylpiperazine (739 mg) were dissolved in 1,2-dichloroethane (10 ml) and sodium triacetoxyboro hydride (1.72 g) and acetic acid (300 mg) were added. The atmosphere was replaced with argon and the mixture was stirred at room temperature for 6.5 hours. Water (5 ml) and saturated sodium hydrogen carbonate (20 ml) were added and the aqueous layer was extracted 5 times with chloroform. Organic layers were combined and dried over anhydrous sodium sulfate. Chloroform was removed and the residue was purified by silica gel column chromatography (ethyl adetate-ethyl acetate:methanol=20:1-10:1) to obtain 1.32 g of 1-acetyl-4-((3-phenoxyphenyl)methyl)piperazine. Yield: 84%.

reactant | 3-phenoxybenzaldehyde | 1.0 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | 1-acetylpiperazine | 739 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | sodium triacetoxyboro hydride | 1.72 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | Water | 5 ml | O | H2O
solvent | acetic acid | 300 mg | C(C)(=O)O | C2H4O2
product | 1-acetyl-4-((3-phenoxyphenyl)methyl)piperazine | 1.32 g, Yield: 84% | C(C)(=O)N1CCN(CC1)CC1=CC(=CC=C1)OC1=CC=CC=C1 | C19H22N2O2
